US06313139B1
A mixture of 3 g of benzolb]furan-2-boronic acid, 3.14 g 2-bromobenzaldehyde, 0.56 g tetrakis(triphenylphosphine)-palladium (0), and 17 ml of 2N aqueous sodium carbonate in 50 ml of a 9:1 mixture of toluene-ethanol, under a nitrogen atmosphere, was heated to 100° C. for 10 h. The mixture was cooled to room temperature, diluted with 100 ml of methylene chloride and washed with 50 ml of 5% sodium bicarbonate containing 5 ml of 0.880 ammonia. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to give 2-(benzo[b]furan-2-yl)benzaldehyde as a brown gum, GC-M.S. (E.I.) (M/Z): 222 [M+].

reactant | furan-2-boronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | 2-bromobenzaldehyde | 3.14 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | sodium carbonate | 2N, 17 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene-ethanol | C=1(C(=CC=CC1)CCO)C | C9H12O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.56 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(benzo[b]furan-2-yl)benzaldehyde | O1C2=C(C=C1C1=C(C=O)C=CC=C1)C=CC=C2 | C15H10O2
